US06066639
N-Iodosuccinimide (653 mg, 2.9 mmol) was added to a stirred solution of 2-methoxycarbonyl-1-triisopropylsilylpyrrole (815 g, 2.9 mmol) in tetrahydrofuran (20 mL). The reaction mixture was stirred at room temperature for two days. The solvent was then removed in vacuo and the oily residue suspended in hexanes (50 mL) with vigorous stirring. The insoluble solid was removed by filtration and the filtrate concentrated in vacuo. Purification of the residue by column chromatography using hexanes gave 3-iodo-5-methoxycarbonyl-1-triisopropylsilylpyrrole (1.044 g, 88%) as a white crystalline solid, mp 81-83° C.: 1H NMR (CDCl3) δ 7.18 (d, 1H, J=1 5 Hz), 7.09 (d, 1H, J=1.5 Hz), 379 (s, 3H), 1.74 (sept, 3H, J=7.6 Hz), 1.11 (d, 18H, J=7.6 Hz).

reactant | N-Iodosuccinimide | 2.9 mmol, 653 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | 2-methoxycarbonyl-1-triisopropylsilylpyrrole | 2.9 mmol, 815 g | COC(=O)C=1N(C=CC1)[Si](C(C)C)(C(C)C)C(C)C | C15H27NO2Si
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-iodo-5-methoxycarbonyl-1-triisopropylsilylpyrrole | 1.044 g, 88% | IC1=CN(C(=C1)C(=O)OC)[Si](C(C)C)(C(C)C)C(C)C | C15H26INO2Si
